US07148230B2
6-Acetoxy-7-methoxy-4(1H)-quinazolinone (150 g; prepared as described in WO96/15118, Example 39 thereof), N,N-diisopropylethylamine (123 ml) and toluene (1275 ml) were stirred at 70° C., under nitrogen. Phosphorus oxychloride (150 ml) was added over 15 minutes to the slurry at 70° C. The mixture was held at 70° C. for 2 hours to complete the chlorination. A dark brown solution formed after 30 minutes following addition of the phosphorus oxychloride. Toluene (680 ml) was added to the reaction mixture, followed by addition of 3-chloro-2-fluoroaniline (78 ml) over 10 minutes at 70° C. On completion of the addition, a solid precipitated resulting in a beige slurry. The slurry was held at 70° C. for 1 hour and then cooled to ambient temperature. The reaction mixture was filtered and washed with toluene (2×300 ml), aqueous IMS (2×450 ml and IMS (2×450 ml). The solid was left to pull dry on the filter overnight to give 6-acetoxy-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline.HCl salt; NMR Spectrum: (DMSO d6) 2.39 (s, 3H); 4.02 (s, 3H); 7.36 (t, 1H); 7.58 (s, 1H); 7.64 (t, 1H); 8.79 (s, 1H) 8.91 (s, 1H); 11.93 (bs 1H); Mass Spectrum: M+H362.

reactant | 6-Acetoxy-7-methoxy-4(1H)-quinazolinone | C(C)(=O)OC=1C=C2C(N=CNC2=CC1OC)=O | C11H10N2O4
reactant | N,N-diisopropylethylamine | 123 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-chloro-2-fluoroaniline | 78 ml | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | Toluene | 680 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1275 ml | C1(=CC=CC=C1)C | C7H8
product | 6-acetoxy-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C17H13ClFN3O3
